US04393217
As for Example 1, 2'-bromo-2-cyanoacetanilide, white crystals, m.p. 140°-141° C. (prepared as described in U.S. Pat. No. 3,116,312), is heated with N,N-dimethylformamide dimethylacetal to give 2'-bromo-2-cyano-3-dimethylaminoacrylanilide as off-white prisms, m.p. 91°-93° C.

reactant | 2'-bromo-2-cyanoacetanilide | BrC1=C(NC(CC#N)=O)C=CC=C1 | C9H7BrN2O
reactant | N,N-dimethylformamide dimethylacetal | COC(N(C)C)OC | C5H13NO2
product | 2'-bromo-2-cyano-3-dimethylaminoacrylanilide | BrC1=C(NC(C(=CN(C)C)C#N)=O)C=CC=C1 | C12H12BrN3O
